US06458772B1
b) Synthesis of 3-bromo-2-stearoyloxy-1-(N-CBz-L-valyloxy)-propane
To a stirred solution of 3-bromo-2-hydroxy-1-(N-CBZ-L-valyloxy)-propane (7.9 g, 20 mmol) and pyridin (3.2 g, 40 mmol) in 250 ml dichloromethane was added dropwise a solution of stearoyl chloride (9.1 g, 30 mmol) in 50 ml dichloromethane between 10° C. and 15° C. The solution was stirred overnight at room temperature. 150 ml of 5% sodium hydrogen carbonate solution was added and the mixture stirred for 30 minutes. The organic phase was separated and the water phase was extracted two times with dichloromethane. The combined organic phases were dried with sodium sulfate and concentrated in vacuo . The product was isolated by silica gel column chromtography. Yield: 10.5 g

reactant | 3-bromo-2-hydroxy-1-(N-CBZ-L-valyloxy)-propane | 20 mmol, 7.9 g | BrCC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)O | C16H22BrNO5
reactant | pyridin | 40 mmol, 3.2 g | N1=CC=CC=C1 | C5H5N
reactant | stearoyl chloride | 30 mmol, 9.1 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | sodium hydrogen carbonate | 150 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-bromo-2-stearoyloxy-1-(N-CBz-L-valyloxy)-propane | BrCC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)OC(CCCCCCCCCCCCCCCCC)=O | C34H56BrNO6
